US08202873B2
To 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (3.00 g, 10.0 mmol, 1 eq) add a 4 M solution of hydrochloric acid in 1,4-dioxane (100 mL, 400 mmol, 40 eq) and stir at room temperature for 3 hr. Filter precipitate and wash with diethyl ether. Dry the powder in vacuum oven over night to give 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride as a pale yellow powder (2.11 g, 78%). MS (ES): m/z=199 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 10.0 mmol, 3.00 g, 1 eq | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | hydrochloric acid | Cl | ClH
reactant | 1,4-dioxane | 400 mmol, 100 mL, 40 eq | O1CCOCC1 | C4H8O2
product | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 2.11 g, 78% | Cl.Cl.ClC=1C(=NC=CN1)N1CCNCC1 | InChI=1S/C8H11ClN4.2ClH/c9-7-8(12-2-1-11-7)13-5-3-10-4-6-13;;/h1-2,10H,3-6H2;2*1H
